US06432981B1
Step B: 2-Ethyl-3-bromoindazole
To a solution of 2-ethylindazole (2.32 g, 15.87 mmol) in ethanol (20 mL) was added bromine (2.54 g, 15.87 mmol) in ethanol (1 mL)/water (1 mL) at 0° C. After stirring at 0° C. for 10 min. and at rt for 1 h, the reaction was quenched with aq. sodium bicarbonate. The mixture was partitioned between ethyl acetate and aq. sodium bicarbonate. The aqueous layer was extracted with ethyl acetate (3×). The combined organic phase was washed with brine, and dried over anhydrous magnesium sulfate. Purification by flash chromatography (hexanes:ethyl acetate=1:1, then 100% ethyl acetate) gave 2.34 g of the title compound as a viscous oil.

reactant | 2-ethylindazole | 15.87 mmol, 2.32 g | C(C)N1N=C2C=CC=CC2=C1 | C9H10N2
reactant | bromine | 15.87 mmol, 2.54 g | BrBr | Br2
reactant | water | 1 mL | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2-Ethyl-3-bromoindazole | 2.34 g | C(C)N1N=C2C=CC=CC2=C1Br | C9H9BrN2
